US05595685
In a 50 ml-three-necked flask, 1.00 g (3.80 mM) of N-(4-hexylbenzoyl)glycine and 19 ml of dry benzene were placed. To the mixture, 0.53 ml (3.81 mM) of triethylamine was added at room temperature under stirring, followed by addition of 0.37 ml (3.87 mM) of ethyl chloroformate and further stirring for 20 minutes at room temperature to precipitate triethylamine hydrochloride. The resultant hydrochloride was filtered off and the solvent of the filtrate was distilled off. The residue was dried under reduced pressure to obtain 2-(4-hexylphenyl)-5-oxazolone.

reactant | N-(4-hexylbenzoyl)glycine | 3.80 mM, 1.00 g | C(CCCCC)C1=CC=C(C(=O)NCC(=O)O)C=C1 | C15H21NO3
reactant | benzene | 19 ml | C1=CC=CC=C1 | C6H6
reactant | ethyl chloroformate | 3.87 mM, 0.37 ml | ClC(=O)OCC | C3H5ClO2
solvent | triethylamine | 3.81 mM, 0.53 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-hexylphenyl)-5-oxazolone | C(CCCCC)C1=CC=C(C=C1)C1OC(C=N1)=O | C15H19NO2
